US05446146
i) Methyl 4-(2-nitrobenzyl)-1-piperazinecarbodithioate (Com. No. 10)
To 30 ml of ethanol were added 3.43 g (20 mmol.) of 2-nitrobenzyl chloride,3.52 g (20 mmol.) of methyl 1-piperazinecarbodithioate, and 2.12 g (20 mmol.) of sodium carbonate. The mixture was then stirred for 4 hours at room temperature and futher stirred overnight at 50°-60 ° C.Ethanol was distilled off under reduced pressure, and the residue was extracted using water and chloroform. The organic solvent portion was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was crystallized from 40 ml of ether,collected by filtration and washed with ether, to give 4.3 g of the desiredcompound, as a yellow crystalline product, yield 69.1%.

reactant | 2-nitrobenzyl chloride | 20 mmol, 3.43 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | methyl 1-piperazinecarbodithioate | 20 mmol, 3.52 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 20 mmol, 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Methyl 4-(2-nitrobenzyl)-1-piperazinecarbodithioate | yield 69.1% | [N+](=O)([O-])C1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C13H17N3O2S2
